US07119102B2
To a round bottom flask was added 4-hydroxypyridine (250 mg, 2.63 mmol), glycidol (194.74 mg, 2.63 mmol) and triphenylphosphine (758.45 mg, 2.89 mmol) in 20 mL of dry THF, followed by the addition of diethyl azodicarboxylate (503.6 mg, 2.89 mmol). The reaction mixture was stirred at room temperature for 18 h. The reaction mixture was concentrated in vacuo. The residue was diluted with CH2Cl2. The organic phase was washed with saturated NaHCO3 and brine. The organic phase was dried over anhydrous Na2SO4, filtered and concentrated. The residue was loaded to a flash chromatography column. The column was eluted with 0–5% MeOH/CH2Cl2. The product fractions were collected and concentrated to afford 80 mg (20.1%) of 4-oxiranylmethoxy-pyridine. (TLC: Rf=0.4, 5% MeOH/CH2Cl2, UV). MH+=152.31.

reactant | 4-hydroxypyridine | 2.63 mmol, 250 mg | OC1=CC=NC=C1 | C5H5NO
reactant | glycidol | 2.63 mmol, 194.74 mg | C1C(O1)CO | C3H6O2
reactant | triphenylphosphine | 2.89 mmol, 758.45 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 2.89 mmol, 503.6 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-oxiranylmethoxy-pyridine | 80 mg, 20.1% | O1C(C1)COC1=CC=NC=C1 | C8H9NO2
